US06770662B2
6.1 g (28 mmol) of m-chloroperbenzoic acid (m-CPBA) was added to a chloroform 100 ml solution of 5.6 g (15 mmol) of 4-(2,3,4-trimethoxy-6-methylbenzoyl)-3-methoxy-5-trifluoromethylpyridine (compound No. 122) at 0° C., followed by stirring at room temperature for 18 hours. The reaction solution was washed with an aqueous sodium hydroxide solution, and the solvent was distilled off under reduced pressure to obtain 5.8 g (yield 99%) of 4-(2,3,4-trimethoxy-6-methylbenzoyl)-3-methoxy-5-trifluoromethylpyridine-N-oxide (m.p. 128-134° C.).

reactant | m-chloroperbenzoic acid | 28 mmol, 6.1 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 4-(2,3,4-trimethoxy-6-methylbenzoyl)-3-methoxy-5-trifluoromethylpyridine | 15 mmol, 5.6 g | COC1=C(C(=O)C2=C(C=NC=C2C(F)(F)F)OC)C(=CC(=C1OC)OC)C | C18H18F3NO5
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-(2,3,4-trimethoxy-6-methylbenzoyl)-3-methoxy-5-trifluoromethylpyridine-N-oxide | 5.8 g, yield 99% | COC1=C(C(=O)C2=C(C=[N+](C=C2C(F)(F)F)[O-])OC)C(=CC(=C1OC)OC)C | C18H18F3NO6
